US06184244B2
N-{[1-(carboxymethyl)-indole-2-carbonyl]valinyl}-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid
Treatment of N-{[1-(tert-butyl)oxycarbonylmethyl-indole-2-carbonyl]valinyl}-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid tert-butyl ester with TFA as described in Example 80 gave the titled product as a white powder. MS C27H25F4N3O8, [M+H]+ =596, [M−H]− =594.

reactant | N-{[1-(tert-butyl)oxycarbonylmethyl-indole-2-carbonyl]valinyl}-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid tert-butyl ester | C(C)(C)(C)OC(CC(C(COC1=C(C(=CC(=C1F)F)F)F)=O)NC([C@@H](NC(=O)C=1N(C2=CC=CC=C2C1)CC(=O)OC(C)(C)C)C(C)C)=O)=O | C35H41F4N3O8
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-{[1-(carboxymethyl)-indole-2-carbonyl]valinyl}-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid | C(=O)(O)CN1C(=CC2=CC=CC=C12)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)O)C(COC1=C(C(=CC(=C1F)F)F)F)=O | C27H25F4N3O8
